US05194602
21-Acetoxy-3,3-ethylenedioxy-20-formamido-16β-methylpregna-5,17(20)-dien-9α-ol
A solution of 3,3-ethylenedioxy-20-formamido-16β-methylpregna-5,17(20)-diene-9α,21-diol (80 mg) in pyridine (0.25 ml) and acetic anhydride (0.12 ml) was stirred at room temperature for 7 hours after which TLC indicated the conversion to be complete. Methylene chloride and water were added to the reaction mixture. The organic phase was washed with water to neutral pH, dried and concentrated under reduced pressure to afford 50 mg of the title compound as a mixture of the two rotamer forms of the 20-formamido group.

reactant | 3,3-ethylenedioxy-20-formamido-16β-methylpregna-5,17(20)-diene-9α,21-diol | 80 mg | C1OC2(CC3=CC[C@H]4[C@@H]5C[C@@H](C(=C(CO)NC=O)[C@]5(CC[C@@]4([C@]3(CC2)C)O)C)C)OC1 | C25H37NO5
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
reactant | pyridine | 0.25 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 0.12 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 21-Acetoxy-3,3-ethylenedioxy-20-formamido-16β-methylpregna-5,17(20)-dien-9α-ol | 50 mg | C(C)(=O)OCC(=C1[C@H](C[C@H]2[C@@H]3CC=C4CC5(CC[C@]4(C)[C@]3(CC[C@]12C)O)OCCO5)C)NC=O | C27H39NO6
